US04665090
5-(2-Aminoethyl)thiophene-2-sulfonamide hydrochloride
To a solution of methylamine (9 g, 0.33 mol) in ethanol (40 ml), cooled in an ice bath, was added N-(2-(5-sulfamoyl-2-thienyl)ethyl)phthalimide (3.2 g, 9.5 mmol). After stirring for 20-25 hours, the precipitated by-product was removed by filtration. The filtrate was concentrated and diethyl ether was added to precipitate remaining by-product. This was collected on a filter. The filtrate was concentrated to dryness to give the product free base as an oil. This oil was dissolved in ethanol and 6N ethanolic HCl was slowly added as the product precipitated. The salt was twice recrystallized by dissolution in methanol and careful dilution with diethyl ether to give 1.3 g, m.p. 222°-224° C.

reactant | methylamine | 0.33 mol, 9 g | CN | CH5N
reactant | N-(2-(5-sulfamoyl-2-thienyl)ethyl)phthalimide | 9.5 mmol, 3.2 g | S(N)(=O)(=O)C1=CC=C(S1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C14H12N2O4S2
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(2-Aminoethyl)thiophene-2-sulfonamide hydrochloride | Cl.NCCC1=CC=C(S1)S(=O)(=O)N | InChI=1S/C6H10N2O2S2.ClH/c7-4-3-5-1-2-6(11-5)12(8,9)10;/h1-2H,3-4,7H2,(H2,8,9,10);1H
